US07179823B1
Sodium hydride (60%, oily, 222 mg) was added to a mixture of 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenylpyrrole-3-carbaldehyde (2.37 g), ethyl diethylphosphonoacetate (1.1 ml) and tetrahydrofuran (30 ml) at 0° C., and the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into dilute hydrochloric acid, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The residue was subjected to silica gel column chromatography, and ethyl(E)-3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propenoate (2.13 g, yield: 78%) was obtained as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:4, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 120–121° C.

reactant | Sodium hydride | 222 mg | [H-].[Na+]
reactant | 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenylpyrrole-3-carbaldehyde | 2.37 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)C=O)C=C1 | C29H24N2O3
reactant | ethyl diethylphosphonoacetate | 1.1 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | ethyl(E)-3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propenoate | 2.13 g, yield: 78% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)/C=C/C(=O)OCC)C=C1 | C33H30N2O4
